US06825351B2
Following the general procedure, 6,7-dihydro-5H-[1]pyrindin-7-ylamine(271 mg, 2.02 mmol), CALB (81 mg) and EtOAc (6.5 mL) were stirred for 7 hours. The conversion determined from 1H NMR by integration of the peaks at 5.17 ppm (CHNHAc) and 4.21 ppm (CHNH2) was 55%. Flash chromatography of the material on silica gel using 1:10 MeOH:CH2Cl2 followed by 1:1:4 NH4OH:MeOH:CH2Cl2 furnished (R)-N-(6,7-dihydro-5H-[1]pyrindin-7-yl)acetamide ((194 mg, 41%). The two enantiomers of the acetamide could not be resolved by GC nor HPLC, and hence the % ee had to be determined indirectly. A small sample of the acetamide was treated with 1N HCl to convert it to the amine, and the resulting amine was resolved by chiral GC (chiral GC method: 85° C. for 120 min, ramp rate 5° C./min to 210° C., final time 5 min; (S)-enantiomerrt=124.3 min, (R)-enantiomerrt=126.1 min) to give % ee of 79%; [α]D=−41° (c 1.49, CHCl3); 1H NMR (CDCl3, 300 MHz) δ 1.75-1.89 (m, 1H), 2.07 (s, 3H), 2.80-2.98 (m, 3H), 5.19-5.27 (m, 1H), 6.32 (br s, 1H), 7.14 (dd, 1H, J=7.5, 5.0 Hz), 7.55 (d, 1H, J=7.5 Hz), 8.39 (d, 1H, J=4.5 Hz); 13C NMR (CDCl3) δ 23.6, 28.3, 33.9, 55.7, 123.0, 133.3, 137.2, 148.2, 148.4, 162.7, 171.0. The unreacted (S)-6,7-dihydro-5H-[1]pyrindin-7-ylamine (was isolated in 42% yield (113 mg) and 99% ee (chiral GC, (S)-enantiomerrt=124.3 min, (R)-enantiomerrt=126.1 min) and displayed spectra identical to the starting material: 1H NMR (CDCl3, 300 MHz) δ 1.68-1.88 (m, 1H), 2.50-2.61 (m, 3H), 2.75-2.86 (m, 1H), 2.92 (ddd, 1H, J=13.2, 9.0, 3.0 Hz), 4.32 (dd, 1H, J=7.8, 7.8 Hz), 7.08 (dd, 1H, J=7.8, 4.8 Hz), 7.51 (d, 1H, J=7.8 Hz), 8.40 (d, 1H, J=4.8 Hz). The dark color of the amine after purification by column chromatography prevented determination of its optical rotation.

reactant | 6,7-dihydro-5H-[1]pyrindin-7-ylamine | 2.02 mmol, 271 mg | N1=CC=CC=2CCC(C12)N | C8H10N2
reactant | EtOAc | 6.5 mL | CCOC(=O)C | C4H8O2
reactant | NH4OH | [NH4+].[OH-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | (R)-N-(6,7-dihydro-5H-[1]pyrindin-7-yl)acetamide | N1=CC=CC=2CC[C@H](C12)NC(C)=O | C10H12N2O
